US05576343
1.0 g of ethyl 3-(5-amidinobenzo[b]thien-2-yl)-2-ethoxycarbonyI-2-[4-[((2R)-2-pyrrolidinyl)methoxy]phenyl]propionate dihydrochloride was dissolved in 20 ml of ethanol, followed by the addition of 0.42 g of ethyl acetimidate hydrochloride. 0.51 g of triethylamine was added to the thus prepared solution during stirring under ice cooling, and the resulting mixture was warmed up to room temperature and stirred for 18 hours. Thereafter, the solvent was distilled off to obtain ethyl 2-[4-[((2R)-1-acetimidoyl-2-pyrrolidinyl)methoxy]phenyl]-2-ethoxycarbonyl-3-(5-amidinobenzo[b]thien-2-yl)propionate dihydrochloride. The thus obtained ester compound was dissolved in 50 ml of 5N hydrochloric acid and refluxed under heating for 60 minutes. After distilling off the solvent, the resulting residue was subjected to column chromatography using a column packed with a highly porous polymer type synthetic adsorbent (styrene-divinylbenzene polymer: Diaion HP-20) and using a water/acetonitrile mixture as an elution solvent. Fractions of interest were pooled and concentrated, and the resulting residue was subjected to reversed phase high performance liquid chromatography using a column packed with octadecyl-bonded silica gel and using a water/acetonitrile mixture as an elution solvent. Thereafter, the thus eluted fractions of interest were pooled, mixed with dilute hydrochloric acid, and then concentrated to dryness. In this way, 360 mg of the title compound was obtained in the form of a light yellow solid.

reactant | ethyl 3-(5-amidinobenzo[b]thien-2-yl)-2-ethoxycarbonyI-2-[4-[((2R)-2-pyrrolidinyl)methoxy]phenyl]propionate dihydrochloride | 1.0 g | Cl.Cl.C(N)(=N)C1=CC2=C(SC(=C2)CC(C(=O)OCC)(C2=CC=C(C=C2)OC[C@@H]2NCCC2)C(=O)OCC)C=C1
reactant | ethyl acetimidate hydrochloride | 0.42 g | Cl.C(C)(OCC)=N
reactant | triethylamine | 0.51 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 2-[4-[((2R)-1-acetimidoyl-2-pyrrolidinyl)methoxy]phenyl]-2-ethoxycarbonyl-3-(5-amidinobenzo[b]thien-2-yl)propionate dihydrochloride | Cl.Cl.C(C)(=N)N1[C@H](CCC1)COC1=CC=C(C=C1)C(C(=O)OCC)(CC1=CC2=C(S1)C=CC(=C2)C(N)=N)C(=O)OCC | InChI=1S/C30H36N4O5S.2ClH/c1-4-37-28(35)30(29(36)38-5-2,17-25-16-21-15-20(27(32)33)8-13-26(21)40-25)22-9-11-24(12-10-22)39-18-23-7-6-14-34(23)19(3)31;;/h8-13,15-16,23,31H,4-7,14,17-18H2,1-3H3,(H3,32,33);2*1H/t23-;;/m1../s1
